US04818275
To a stirred solution of 100 g (0.9 mole) of 2-fluoroaniline in 200 ml of water was added 105 ml (1.1 moles) of acetic achydride. Upon completion of addition the reaction mixture was filtered to collect a solid. The solid was dried to yield 105 g of 2-fluoroacetanilide; m.p. 74°-76° C. The reaction was repeated several times.

reactant | 2-fluoroaniline | 0.9 mole, 100 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | acetic | 1.1 moles, 105 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | water | 200 ml | O | H2O
product | 2-fluoroacetanilide | 105 g | FCC(=O)NC1=CC=CC=C1 | C8H8FNO
